### PR TITLE
[Merged by Bors] - feat: add some elementary number theory lemmas

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This PR adds a few elementary lemmas of a number theoretic flavor. It also improves the sectioning in `Mathlib/RingTheory/Fintype.lean`.

See [here on Zulip](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Some.20elementary.20number.20theory.20results/near/505893560).

I'm labeling this `t-number-theory` although the modified files are under `Data` and `RingTheory`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Nat/Prime/Basic.lean [hunk 1]
```diff
@@ -120,6 +120,13 @@ theorem Prime.not_coprime_iff_dvd {m n : ℕ} : ¬Coprime m n ↔ ∃ p, Prime p
     obtain ⟨p, hp⟩ := h
     apply Nat.not_coprime_of_dvd_of_dvd (Prime.one_lt hp.1) hp.2.1 hp.2.2
 
+/-- If `0 < m < minFac n`, then `n` and `m` have gcd equal to `1`. -/
+lemma gcd_eq_one_of_lt_minFac {n m : ℕ} (h₀ : m ≠ 0) (h : m < minFac n) : n.gcd m = 1 := by
```
Comment (urkud) [inline Mathlib/Data/Nat/Prime/Basic.lean:124]: Please add a `Nat.Coprime` version too.

Comment (urkud) [reply Mathlib/Data/Nat/Prime/Basic.lean:124]: Otherwise LGTM. Thanks!
bors d+

Comment (MichaelStollBayreuth) [reply Mathlib/Data/Nat/Prime/Basic.lean]: Done.
